US06576698B1
Preparation of Vinyl Acetate/norbornyl Acrylate/ethylene Copolymer
932 g of water, 466 g of a 20% strength, aqueous solution of a polyvinyl alcohol having a degree of hydrolysis of 88 mol % and a Höppler viscosity of 4 mPas, 5 g of iron ammonium sulfate (1% strength in water) and 1170 g of vinyl acetate were initially introduced into a polymerization vessel having a volume of 5 liters and were heated to 60° C. At the same time, 40 bar of ethylene were forced in. tert-Butyl hydroperoxide (3% strength in water) and brüggolite (sodium hydroxymethanesulfinate) (5% strength in water) were then metered in continuously, each at 14 g/h. From the beginning of the polymerization, detectable from the increase in the internal temperature, the internal temperature was increased to 80° C. 30 minutes later, the remaining monomer mixture comprising 466 g of norbornyl acrylate and 699 g of vinyl acetate was metered in continuously in 2 h at 585 g/h. Simultaneously with the monomer metering, 755 g of a 12.3% strength polyvinyl alcohol solution (polyvinyl alcohol as above) were metered at 358 g/h in the course of 2 h. The ethylene pressure was kept at 40 bar up to the end of the monomer metering. Polymerization was effected until no more heat of polymerization could be observed. To remove residual monomers, postpolymerization was effected with 15 g of tert-butyl hydroperoxide (10% strength in water) and 15 g of brüggolite (10% strength in water) after cooling to 30° C.

reactant | vinyl acetate | 1170 g | C(C)(=O)OC=C | C4H6O2
reactant | ethylene | C=C | C2H4
reactant | tert-Butyl hydroperoxide | C(C)(C)(C)OO | C4H10O2
reactant | sodium hydroxymethanesulfinate | OCS(=O)[O-].[Na+]
reactant | norbornyl acrylate | 466 g | C(C=C)(=O)OC12CCC(CC1)C2 | C10H14O2
reactant | vinyl acetate | 699 g | C(C)(=O)OC=C | C4H6O2
solvent | water | O | H2O
catalyst | iron ammonium sulfate | 5 g | S(=O)(=O)([O-])[O-].[NH4+].[Fe+]
solvent | water | 932 g | O | H2O
product | Vinyl Acetate norbornyl Acrylate ethylene | C(C)(=O)OC=C.C(C=C)(=O)OC12CCC(CC1)C2.C=C | InChI=1S/C10H14O2.C4H6O2.C2H4/c1-2-9(11)12-10-5-3-8(7-10)4-6-10;1-3-6-4(2)5;1-2/h2,8H,1,3-7H2;3H,1H2,2H3;1-2H2
